datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21.C[N:12]1CCC[N:62](C)[C:11]1=[CH2:10]>>C[N+:12]1=[C:11]([CH2:10][CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[N:62](C)CCC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].C[Si](C)(C)[N:12]1[CH:11]=[N:10][CH:64]=[CH:63]1>>CC(C)[O:33][C:22](=[N:21][N:20]([N:10]1[CH:11]=[N+:12]([Si](C)(C)C)[CH:63]=[CH:64]1)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20]Cl.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10]>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C+:11](C)[CH2:10][CH:20](Cl)[N:21](C)C 10,11=10,20;20,21=21"
"C1=CC=C([C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72])C=C1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71](C2=CC=CC=C2)=[O:72])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[NH2:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC(C)(C)[NH2+:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H:10][Si:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[Si+:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1 10,11=10,20"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.C[CH:10](C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][C:33]2=[C:34](OCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](OCC2)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CC[N:82](CC)[C:71]([CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:72].C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC[N:82](CC)[C:71]([CH:10]([CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:72] 10=20;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C1C[NH:10][CH:61]([C:62]([F:63])([F:73])[F:83])C1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([NH+:10]2CCC[CH:61]2[C:62]([F:63])([F:73])[F:83])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH:10]1>>O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH+:10]1[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62]/[CH:11]=[CH:10]/C)OC1(C)C.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH+:11][CH:10](C)[C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)OC1(C)C 10,11=10,20"
"C[C:63]1=[CH:62][CH:61]=[N:10][C:71]2=[C:72]1C=CC=C2.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[C:63]1=[CH:62][CH:61]=[N+:10]([S:20]C(F)(F)F)[C:71]2=[C:72]1C=CC=C2 10=20;20,21=21"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl>>C[C+:11]([CH2:10][CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2)[CH2:62][Si:63](Cl)(Cl)Cl 10,11=10,20"
